US08864894B2
3.0 g of triethylamine and 18 g of ethyl acetate were charged into a 100 mL flask to be dissolved. While stirring the resultant mixed solution with a magnetic stirrer, to the mixed solution, a solution in which 8.8 g of trimethoxysilylpropyl chloride was dissolved in 24 g of ethyl acetate was gradually added at room temperature in a nitrogen atmosphere. The reaction mixture was refluxed over 3 days and therefrom, ethyl acetate was distilled off under reduced pressure. The resultant concentrate was dropped into 100 mL of diethyl ether and therefrom, triethylamine and trimethoxysilylpropyl chloride as by-products were removed. This purification was repeated three times and then remaining diethyl ether was distilled off under reduced pressure, followed by dissolving the resultant concentrate in methanol to obtain a 30% methanol solution of trimethoxysilylpropyltriethylammonium chloride.

reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | trimethoxysilylpropyl chloride | 8.8 g | CO[Si](OC)(OC)CCCCl | C6H15ClO3Si
solvent | ethyl acetate | 24 g | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 18 g | C(C)(=O)OCC | C4H8O2
product | trimethoxysilylpropyltriethylammonium chloride | [Cl-].CO[Si](OC)(OC)CCC[N+](CC)(CC)CC | InChI=1S/C12H30NO3Si.ClH/c1-7-13(8-2,9-3)11-10-12-17(14-4,15-5)16-6;/h7-12H2,1-6H3;1H/q+1;/p-1
